US05407943
A. 7-(1-tert-Butoxycarbonylamino-6-azaspiro[2.5]oct-6-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
According to the procedure of example 1A, 1-tert-butoxycarbonylamino-6-azaspiro[2.5]octane (260.0 mg, 1.15 mmol ) and 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (274 mg, 1.04 mmol) were reacted to generate the title product (472 mg, 1.00 mg, 97% yield).

reactant | 1-tert-butoxycarbonylamino-6-azaspiro[2.5]octane | 1.15 mmol, 260.0 mg | C(C)(C)(C)OC(=O)NC1CC12CCNCC2 | C12H22N2O2
reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 1.04 mmol, 274 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
product | 7-(1-tert-Butoxycarbonylamino-6-azaspiro[2.5]oct-6-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 472 mg, 97% yield | C(C)(C)(C)OC(=O)NC1CC12CCN(CC2)C2=C(C=C1C(C(=CN(C1=C2)C2CC2)C(=O)O)=O)F | C25H30FN3O5
